US04294835
10.3 g of a 20% acqueous NaOH solution was added dropwise to the mixture of 16.6 g of N-(1,2,2,2-tetrachloroethyl)-2-acetoxybenzamide, 70 ml of acetone and 5.3 g of phenyl mercaptan under stirring at 10°-15° C. The reaction was effected at room temperature for one hour. Water was added thereto, the dichloromethane layer was separated, and the solution was dried and concentrated. 100 ml of ethanol and 1.5 ml of 35% hydrochloric acid were added to the residue and the reaction was effected under reflux for two hours. The solvent was distilled off to obtain 14.5 g of N-(1-phenylthio-2,2,2-trichloroethyl)-2-hydroxybenzamide as white crystals.

reactant | NaOH | [OH-].[Na+]
reactant | N-(1,2,2,2-tetrachloroethyl)-2-acetoxybenzamide | 16.6 g | ClC(C(Cl)(Cl)Cl)NC(C1=C(C=CC=C1)OC(C)=O)=O | C11H9Cl4NO3
reactant | acetone | 70 ml | CC(=O)C | C3H6O
reactant | phenyl mercaptan | 5.3 g | C1(=CC=CC=C1)S | C6H6S
solvent | Water | O | H2O
product | N-(1-phenylthio-2,2,2-trichloroethyl)-2-hydroxybenzamide | 14.5 g | C1(=CC=CC=C1)SC(C(Cl)(Cl)Cl)NC(C1=C(C=CC=C1)O)=O | C15H12Cl3NO2S
